US07842713B2
N,N-Dimethyl-5-[(2-methyl-6-{[(5-methylpyridin-2-yl)amino]-carbonyl}-1-benzofuran-4-yl)oxy]pyridine-2-carboxamide
To a solution of 5-methylpyridin-2-amine (191 mg, 1.76 mmol) in DCE at 0° C. was added Al(CH3)2Cl drop-wise. After stirring the mixture at room temperature for 20 minutes ethyl 4-({6-[(dimethylamino)carbonyl]pyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate (65 mg, 0.18 mmol) was added. The reaction was stirred at room temperature for 14 hours. The sample was diluted with CH2Cl2 and quenched with potassium sodium tartrate tetrahydrate (20% w/w) (1 mL). Caution, addition was done slowly. The organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude sample was introduced into a silica gel column and eluted with MeOH/CHCl3 (3/97) to provide the product (35 mg, 85% yield) as white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.32 (s, 3 H) 2.48 (s, 3 H) 3.16 (d, J=7.54 Hz, 6 H) 6.26 (s, 1 H) 7.31 (dd, J=8.67, 2.83 Hz, 1 H) 7.48 (d, J=1.13 Hz, 1 H) 7.58 (d, J=6.78 Hz, 1 H) 7.69 (d, J=8.67 Hz, 1 H) 7.87 (s, 1 H) 8.12 (s, 1 H) 8.26 (d, J=8.48 Hz, 1 H) 8.38 (d, J=2.64 Hz, 1 H) 8.53 (s, 1 H); MS (ESI, pos): 431.

reactant | 5-methylpyridin-2-amine | 1.76 mmol, 191 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | Al(CH3)2Cl | [Al](C)(C)Cl
reactant | ethyl 4-({6-[(dimethylamino)carbonyl]pyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate | 0.18 mmol, 65 mg | CN(C(=O)C1=CC=C(C=N1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C20H20N2O5
solvent | DCE | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-5-[(2-methyl-6-{[(5-methylpyridin-2-yl)amino]-carbonyl}-1-benzofuran-4-yl)oxy]pyridine-2-carboxamide | 35 mg, 85% yield | CN(C(=O)C1=NC=C(C=C1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)NC2=NC=C(C=C2)C)C | C24H22N4O4
